US09029536B2
F) 10-[4-(1H-Benzimidazol-2-yloxy)phenyl]-6,7,8,9-tetrahydropyrido[2,3-b]indolizine
To a suspension of 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzo[d]imidazole (320 mg), 10-bromo-6,7,8,9-tetrahydropyrido[2,3-b]indolizine (217 mg) and K2CO3 (119 mg) in DME (4 mL) and water (1 mL) was added Pd(PPh3)4 (100 mg). The mixture was heated at 150° C. for 40 min under microwave irradiation. The mixture was poured into water and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (43.4 mg).

reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzo[d]imidazole | 320 mg | CC1(OB(OC1(C)C)C1=CC=C(OC2=NC3=C(N2)C=CC=C3)C=C1)C | C19H21BN2O3
reactant | 10-bromo-6,7,8,9-tetrahydropyrido[2,3-b]indolizine | 217 mg | BrC=1C2=C(N3CCCCC13)C=CC=N2 | C11H11BrN2
reactant | K2CO3 | 119 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 10-[4-(1H-Benzimidazol-2-yloxy)phenyl]-6,7,8,9-tetrahydropyrido[2,3-b]indolizine | 43.4 mg | N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)C=2C1=C(N3CCCCC23)C=CC=N1 | C24H20N4O
